US05108486
Following procedures similar to those employed in Step B of Example 3, the reaction of 9.59 g (0.0480 mole) of 4-(4-fluorophenyl)-2-methyl-3-thiosemicarbazide with 10.1 g (0.0480 mole) of trifluoroacetic anhydride in 100 ml of toluene yielded 12.3 g of 4-(4-fluorophenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione as a solid, mp 94°-96° C., Compound 8 of Table 1. The nmr spectrum was consistent with the proposed structure.

reactant | 4-(4-fluorophenyl)-2-methyl-3-thiosemicarbazide | 0.0480 mole, 9.59 g | FC1=CC=C(C=C1)NC(N(N)C)=S | C8H10FN3S
reactant | trifluoroacetic anhydride | 0.0480 mole, 10.1 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-fluorophenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione | 12.3 g | FC1=CC=C(C=C1)N1C(=NN(C1=S)C)C(F)(F)F | C10H7F4N3S
